US03940486
a. (α-hydroxyimino-benzyl)-(3-pyridyl)-ketone
(α-hydroximino-p-methoxybenzyl)-(3-pyridyl)-ketone (m.p. 183°-186°C), starting from 11.3 g (p-methoxybenzyl)-(3-pyridyl)-ketone.

reactant | (α-hydroximino-p-methoxybenzyl)-(3-pyridyl)-ketone | N(O)=C(C1=CC=C(C=C1)OC)C(=O)C=1C=NC=CC1 | C14H12N2O3
reactant | (p-methoxybenzyl)-(3-pyridyl)-ketone | 11.3 g | COC1=CC=C(CC(=O)C=2C=NC=CC2)C=C1 | C14H13NO2
product | (α-hydroxyimino-benzyl)-(3-pyridyl)-ketone | ON=C(C1=CC=CC=C1)C(=O)C=1C=NC=CC1 | C13H10N2O2
